Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
LLE pain, redness, swelling
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ yo man with HTN, atrial fibrillation on
warfarin, presenting with worsening cellulitis. 

He states his symotoms first began 6 days ago. He had noted
increased bilateral swelling but that his lefty leg was much
larger than his right. His left leg was also very hot, red, and
painful to touch. He was seen by his PCP on ___ and was
prescribed Keflex for cellulitis. He took this and felt the pain
was improving but that the redness was worsening prompting him 
to
come to the ED. 

Of note he had one prior episode like this with bilateral leg
swelling and infection ___ years ago. At that time he was 
admitted
to medicine for several days of IV antibiotics. 

In the ED vitals were T97.6, HR 86, BP 127/87, RR18, O2Sat 99%
RA. His exam was c/w cellulitis and he was given vancomycin. He
had ___ which was negative for DVT. He was admitted to
medicine. 

On arrival to the floor he is feeling well with minimal pain to
the left lower extremity. He denies any fevers, chills, night
sweats. No sick contacts, no trauma to the leg. 

14 point ROS otherwise negative 
 
Past Medical History:
Hypertension 
Atrial Fibrillation 

 
Social History:
___
Family History:
Family History: father with CAD 
 
Physical Exam:
Admission exam
VS:  ___ Temp: 98.0 PO BP: 162/97 HR: 89 RR: 18 O2 
sat:
99% O2 delivery: RA General Appearance: pleasant, comfortable, 
no
acute distress
Eyes: PERLL, EOMI, no conjuctival injection, anicteric
Respiratory: CTA b/l with good air movement throughout
Cardiovascular: RR, S1 and S2 wnl, no murmurs, rubs or gallops
Gastrointestinal: nd, +b/s, soft, nt, no masses or HSM
Extremities: 2+ bilateral pitting edema with large area or
redness on the left shin very hot to touch, outlined with 
marker.

Skin: warm, no rashes/no jaundice/no skin ulcerations noted
Neurological: Alert, oriented to self, time, date, reason for
hospitalization.  
Psychiatric: pleasant, appropriate affect
GU: no catheter in place
 
Pertinent Results:
___ 07:35AM BLOOD WBC-5.3 RBC-4.55* Hgb-13.9 Hct-42.6 
MCV-94 MCH-30.5 MCHC-32.6 RDW-13.2 RDWSD-45.5 Plt ___
___ 07:05AM BLOOD WBC-5.1 RBC-4.46* Hgb-13.6* Hct-41.9 
MCV-94 MCH-30.5 MCHC-32.5 RDW-13.3 RDWSD-45.6 Plt ___
___ 06:19AM BLOOD WBC-4.8 RBC-4.33* Hgb-13.4* Hct-40.9 
MCV-95 MCH-30.9 MCHC-32.8 RDW-13.3 RDWSD-45.9 Plt ___
___ 01:15PM BLOOD WBC-6.1 RBC-4.67 Hgb-14.4 Hct-43.1 MCV-92 
MCH-30.8 MCHC-33.4 RDW-13.3 RDWSD-45.2 Plt ___
___ 01:15PM BLOOD Neuts-53.3 ___ Monos-10.4 Eos-2.3 
Baso-0.3 Im ___ AbsNeut-3.27 AbsLymp-2.02 AbsMono-0.64 
AbsEos-0.14 AbsBaso-0.02
___ 07:35AM BLOOD ___ PTT-37.8* ___
___ 07:05AM BLOOD ___
___ 06:19AM BLOOD ___
___ 01:15PM BLOOD ___ PTT-37.2* ___
___ 07:35AM BLOOD Glucose-99 UreaN-19 Creat-0.8 Na-144 
K-4.6 Cl-104 HCO3-25 AnGap-15
___ 07:05AM BLOOD Glucose-93 UreaN-17 Creat-0.8 Na-142 
K-4.5 Cl-103 HCO3-26 AnGap-13
___ 06:19AM BLOOD Glucose-83 UreaN-19 Creat-0.8 Na-142 
K-4.6 Cl-101 HCO3-29 AnGap-12
___ 06:19AM BLOOD proBNP-951*

bcx pending

___:
IMPRESSION:   
No evidence of deep venous thrombosis in the right or left lower 
extremity veins. 

 
Brief Hospital Course:
Mr. ___ is a ___ yo man with HTN, atrial fibrillation on 
warfarin, presented with worsening LLE cellulitis.

#LLE Cellulitis 
#bilateral lower extremity edema 
Presenting with spreading erythema despite oral antibiotics as 
an outpt.
(Keflex). Much improved with IV vancomycin since ___.  DC'd IV 
vanco ___ and started PO doxycycline with ongoing clinical 
improvement. Plan to complete a total of 7 days of antibiotic 
therapy. Avoided Bactrim due to use ___ and potential hyperk. 
___ negative. 

#Atrial Fibrillation -Continued metoprolol. Continued warfarin. 
Monitored INR daily. Got 7.5mg ___ and 10mg ___ and ___. INR 3 
on ___ and instructed pt to hold his dose ___ and resume ___ 
___. Instructed to call his PCP for ___ and to have INR 
rechecked ___ or ___. 

#Hypertension -Losartan and Lasix continued.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 50 mg PO DAILY 
2. Metoprolol Succinate XL 100 mg PO DAILY 
3. Warfarin 10 mg PO DAILY16 

 
Discharge Medications:
1.  Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth twice a day 
Disp #*8 Tablet Refills:*0 
2.  Furosemide 20 mg PO DAILY  
3.  Losartan Potassium 50 mg PO DAILY  
4.  Metoprolol Succinate XL 100 mg PO DAILY  
5. HELD- Warfarin 7.5 mg PO DAILY16  This medication was held. 
Do not restart Warfarin until ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cellulitis
atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted for a skin infection of the leg called 
cellulitis. You were given IV antibiotics for a few days with 
improvement. Then, you were transitioned to pill antibiotics 
(doxycycline) which you should take for a few more days to 
complete a ___ue to your antibiotics, your INR may be higher and more 
irregular. Due to this, would not take any warfarin on ___ and 
then resume taking 7.5mg a day for ___ and have your INR 
checked on ___ or ___ at your PCP's office. Then, Dr ___ 
adjust your dose further from there. 

Thank you for allowing us to participate in your care, 
Your ___ team
 
Followup Instructions:
___